US07138395B2
Preparation of 6-hydroxy-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (36):
To a solution of 6-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester, 35, (5.1 g, 19.8 mmol) in THF (100 mL) at −78° C., a 1M solution of LiEt3BH in THF (22.0 mL, 22 mmol) is added. After stirring for 1 hr at −78° C., the solution is cautiously quenched aqueous NH4Cl. The crude product is extracted with EtOAc and the combined EtOAc extracts are washed with brine, dried (MgSO4), and concentrated in vacuo. The desired product is used without further purification.

reactant | 6-oxo-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(CCC1)=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 22 mmol, 22.0 mL | C1CCOC1 | C4H8O
product | 6-hydroxy-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(CCC1)O)C(=O)OC(C)(C)C | C12H21NO5
